US07259266B2
Step 2. Preparation of ethyl 8-iodo-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To the mixture of 1.5 g (5.4 mmol) of 2-hydroxy-3-iodo-4-methoxybenzaldehyde, 3.1 mL (20.6 mmol) of ethyl trifluoromethylcrotonate, and 4.2 g(12.9 mmol) of cesium carbonate was added 8 mL of anhydrous N,N-dimethylformamide. The mixture was heated to 90° C. overnight. After cooling to room temperature, to the reaction was added 150 mL of ethyl acetate. The organic solution was filtered, washed with brine and dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified by silica chromatography with ethyl acetate/hexane (2:8) to give 0.3 g (14%) a light yellow solid: 1H NMR(CDCl3/400 MHz) 7.65(s, 1H), 7.17(d, J=8.4 Hz, 1H), 6.50(d, J=8.4 Hz, 1H), 5.80(q, J=6.8 Hz,1H), 4.30(m, 2H), 3.92(s, 3H), 1.33(t, J=7.6 Hz, 3H). MS (ESI+) 429.0(M+1, 100). HRMS (EI+) m/z calcd for (C14H12F3O4) 427.9732, found 427.9715.

reactant | 2-hydroxy-3-iodo-4-methoxybenzaldehyde | 5.4 mmol, 1.5 g | OC1=C(C=O)C=CC(=C1I)OC | C8H7IO3
reactant | ethyl trifluoromethylcrotonate | 20.6 mmol, 3.1 mL | FC(F)(F)/C(/C(=O)OCC)=C\C | C7H9F3O2
reactant | cesium carbonate | 12.9 mmol, 4.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 8-iodo-7-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.3 g, 14% | IC=1C(=CC=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC | C14H12F3IO4
